US05919753
(b) Methylene bis(hydroxyacetate)
Methylene bis(benzyloxyacetate) (0.52 g, 1.5 mmol) and Pd/C (100 mg, 10%) are added to dry ethanol (100 ml). Hydrogen (1 atm) is introduced and the reaction is complete after 16 hours at room temperature, whereupon the reaction mixture is filtered and the solvent is evaporated under reduced pressure (0.01 mmHg) to yield 0.23 g (95%) product. 1H NMR (200 MHz, MeOH): δ 4.2 (CH2, s), 4.9 (OH), 5.9 (OCH2O, s). The product may be used to form polyesters with di- or poly-acids and to form polyurethanes with isocyanates.

reactant | Methylene bis(benzyloxyacetate) | 1.5 mmol, 0.52 g | C(C1=CC=CC=C1)OCC(=O)OCOC(COCC1=CC=CC=C1)=O | C19H20O6
reactant | Hydrogen | [H][H] | H2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Methylene bis(hydroxyacetate) | 0.23 g, 95% | OCC(=O)OCOC(CO)=O | C5H8O6
